US06034099
From the reaction of 4-(4-(2-ethylanilinomethylene)-4,5-dihydro-3-methyl-5-oxo-1H-pyrazol-1-yl)-benzoic acid and hexylamine, 4-(4-(2-ethylanilinomethylene)-4,5-dihydro-3-methyl-5-oxo-1H-pyrazol-1-yl)-N-hexylbenzamide is obtained, Mp 62.1° C.

reactant | 4-(4-(2-ethylanilinomethylene)-4,5-dihydro-3-methyl-5-oxo-1H-pyrazol-1-yl)-benzoic acid | C(C)C1=C(NC=C2C(=NN(C2=O)C2=CC=C(C(=O)O)C=C2)C)C=CC=C1 | C20H19N3O3
reactant | hexylamine | C(CCCCC)N | C6H15N
product | 4-(4-(2-ethylanilinomethylene)-4,5-dihydro-3-methyl-5-oxo-1H-pyrazol-1-yl)-N-hexylbenzamide | C(C)C1=C(NC=C2C(=NN(C2=O)C2=CC=C(C(=O)NCCCCCC)C=C2)C)C=CC=C1 | C26H32N4O2
